Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ one-year history of pancreatitis and recent 
hospitalization for pancreatitis at ___ & ___ 
___ presents w/ abdominal pain and vomiting found to have an 
elevated lipase. He reports that he has had pain across the 
upper abdomen for 1 week, which radiates to left shoulder, and 
is associated with
nausea and vomiting.  He describes it as 10 out of 10 pain which 
is intermittent but will last up to 2 hours.  Pain is 
exacerbated by eating, for which the patient endorses a 
decreased appetite.  Patient otherwise denies fevers and chills. 
 He endorses diarrhea without melena.

In the ED, initial vital signs were 97.3 119 150/97 18 97% on 
RA.
-Labs notable for a CBC with WBC of 12.2, H/H of 16.5/47.9, PLT 
of 269.  BMP WNL.  LFTs WNL.  Lipase 249.
-He received IV Zofran, IV morphine, IV Dilaudid ×3, NS.

Upon arrival to the floor, the patient tells the story as 
follows.  He reports that he has had ongoing chronic
pancreatitis, which was originally diagnosed approximately ___ 
year ago.  He reports that his first bout the ___ occurred at 
the beginning of ___, for which she was hospitalized at ___ 
___.  He had a subsequent bout at the beginning of 
___, for which she was brought by ambulance from ___ 
___ to ___ for possible surgical 
intervention.  He reports at the time he had pancreatic cysts, 
possibly pseudocyst, with possible area of necrosis.  He reports 
he is significantly confused by that hospitalization.  He was 
told multiple times that he would or would not have surgery.  
Ultimately he did not have surgery and was later discharged 
approximately 2 weeks ago. 

Approximately 1 week ago, or 1 week following his most recent 
discharge, he had worsening abdominal pain typical of his 
pancreatitis pain.  He describes this as acute pain located 
across his epigastric region and radiating towards his left 
shoulder.  His clearly exacerbated by eating or drinking 
anything.  He reports that it is occasionally relieved by 
vomiting.  He otherwise denies fevers, chills, dysuria.  She 
reports that he had some episodes of diarrhea, although none 
today.  He denies recent antibiotic usage.  He reports 
significantly worsening anxiety in the setting of his illness.  
Although he was set up to see a specialist at ___ later in ___, he reports that the pain became too 
much which caused him to present to care today.  He reports that 
he heard that ___ has "messed experts and pancreatitis" 
which is why he came here.

ROS: as above otherwise All other systems were reviewed and are 
negative. 
 
Past Medical History:
- Anxiety
- Recurrent pancreatitis
 
Social History:
___
Family History:
+ breast cancer (maternal and paternal GM); + thyroid disorder 
(mother) 
 
Physical Exam:
DISCHARGE EXAM
Vitals: 97.4 ___
Gen: Lying in bed in no apparent distress, awake and alert
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
GI: soft, generalized tenderness, ND, no HSM 
MSK: No edema
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all 
extremities
Psych: calm mood, appropriate affect
 
Pertinent Results:
ADMISSION LABS
___ 07:30PM BLOOD WBC-12.2* RBC-5.00 Hgb-16.5 Hct-47.9 
MCV-96 MCH-33.0* MCHC-34.4 RDW-13.1 RDWSD-46.2 Plt ___

___ 07:30PM BLOOD Glucose-97 UreaN-7 Creat-0.6 Na-141 K-4.1 
Cl-99 HCO3-23 AnGap-19*
___ 07:30PM BLOOD ALT-36 AST-35 AlkPhos-111 TotBili-0.4

___ 07:30PM BLOOD Lipase-249*

___ 08:45AM BLOOD Triglyc-192*

___ 08:45AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Tricycl-NEG
___ 07:30PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

___ 07:34PM BLOOD Lactate-1.6

DISCHARGE LABS***

IMAGING:
-CT abdomen ___: 
1. Findings are highly suggestive of groove pancreatitis.
2. Acute distal transverse colon colitis, infectious or 
inflammatory in nature.
3. Dilated pancreatic head and uncinate process ducts with 
pancreaticoliths, likely sequela of previous episodes of 
pancreatitis.
4. Distal pancreatic tail and peripancreatic collections, 
appears of chronic nature given calcifications, likely sequela 
of prior episodes of pancreatitis.
5. Splenomegaly and upper abdominal varices, secondary to 
probable SMV thrombosis.

 
Brief Hospital Course:
___ h/o recurrent pancreatitis and anxiety who presents with 
abdominal pain ___ groove pancreatitis and colitis. 

# ___ pancreatitis
Patient notes episodes of pancreatitis began ___ year ago with 
recent admissions to ___ ___ and recent 
admission at ___ ___ noting necrosis, pancreatic cyst, 
and pseudocyst without indication for surgery. MRCP at ___ 
showed evidence of pancreatic necrosis and a large pseudocyst. 
CTAP done here showed groove pancreatitis (chronic form of 
segmental pancreatitis often associated with duodenal stenosis), 
inflammatory changes of the first and second part of duodenum, 
and colitis in the transverse colon. ERCP consulted for 
consideration of endoscopic drainage of pancreatic pseudocyst. 
Determined MRCP would be needed initially to further 
differentiate pancreatic fluid collections. However, given 
concern for non-compliance with complete avoidance of alcohol 
and medical recommendations during this hospitalization, they 
decided to postpone any plans for now until patient demonstrates 
compliance. Advancement of diet was attempted which he did not 
tolerate. He continued to have severe pain associated with 
eating a low fat diet despite high-dose narcotics. He insisted 
on being allowed to eat and preferred to deal with the pain then 
consider bowel rest. Given ongoing pain with no improvement, 
medicine, GI, and ERCP teams strongly recommended placement of 
post-pyloric Dobhoff and initiation of tube feeds. He ultimately 
refused stating "I've read too many bad things on the internet 
about NG tubes." Despite ongoing urging from all teams involved 
in his care that he stop eating and allow tube placement, he 
asked to be discharged. He was told that if he left the hospital 
and continued to eat he was at very high risk for serious 
complications including worsening pancreatitis, 
sepsis/life-threatening infection, and even death. He verbalized 
that he understood the risks but wanted to be discharge anyway. 
He was given a quick tapering regimen of hydromorphone to help 
with pain and prevent opiate withdrawal symptoms. He was 
instructed to follow-up closely with his PCP.

# Distal transverse colon colitis
# C. diff colitis
Seen on CTAP. Per GI, most likely reactive from pancreatitis in 
close proximity. Low suspicion for IBD. Stool studies positive 
for C. diff. Suspicious for colonization given lack of diarrhea 
and no leukocytosis, however, colitis noted on CT. Stool OP and 
CS negative. He was started on vancomycin PO and transitioned to 
metronidazole at the time of discharge to complete a 14-day 
course. 

# alcohol use disorder
Pt remained in denial that drinking is a problem for him. Did 
not think he drank enough to cause pancreatitis. Acted shocked 
when told he must completely abstain from alcohol. Refused to 
talk to SW. Family at bedside very concerned and reported pt 
underreports his drinking. No active withdrawal s/s.

# SMV thrombosis - chronic; likely sequela from recurrent 
pancreatitis. No indication for anticoagulation.

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN Pain - Severe 
  Reason for PRN duplicate override: taper
RX *hydromorphone [Dilaudid] 2 mg 2 tablet(s) by mouth every 
four (4) hours Disp #*24 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H Duration: 10 Days 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Recurrent severe pancreatitis 
Anxiety 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted with recurrent pancreatitis treated with IV 
fluids, IV pain medications, and bowel rest.  Your diet was 
advanced but you did not tolerate it well. We strongly 
recommended placement of a feeding tube in order to feed you in 
a matter that would allow your pancreas to rest but you refused 
this treatment. You are at high risk for worsening pancreatitis 
and life-threatening complications including sepsis, a 
life-threatening infection. You stated you are aware of the 
risks and requested to be discharged. 

Although our recommendation is to place a feeding tube to avoid 
eating by mouth, this is obviously not an option if you leave 
the hospital. Therefore, you should eat bland diet low in fat 
and do not drink any alcohol. However, even if you follow a 
low-fat diet and avoid alcohol, you are still at risk of getting 
much sicker.

You are being given a short tapering course of pain medications 
to prevent withdrawal symptoms. 

The Gastroenterology/pancreas team saw you while you were here 
and will continue to follow up with.  

-Your ___ team. 
 
Followup Instructions:
___